US04826860
To a stirred solution of 12.1 g (0.05 mol) of N-phenyl-N'-benzylthiourea in 150 ml of glacial acetic acid was added dropwise 8.0 g (0.05 mol) of bromine in 60 mL of glacial acetic acid. The reaction was poured into 10 volumes of water and made basic with concentrated ammonium hydroxide. A solid precipitated from the aqueous solution and was filtered. The solid could be recrystallized from an appropriate solvent to yield N-benzyl-2-benzothiazolamine.

reactant | N-phenyl-N'-benzylthiourea | 0.05 mol, 12.1 g | C1(=CC=CC=C1)NC(=S)NCC1=CC=CC=C1 | C14H14N2S
reactant | bromine | 0.05 mol, 8.0 g | BrBr | Br2
reactant | water | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | N-benzyl-2-benzothiazolamine | C(C1=CC=CC=C1)NC=1SC2=C(N1)C=CC=C2 | C14H12N2S
